US06852867B2
In an argon atmosphere, 0.27 kg of lithium aluminum hydride was added to 18 L of methyl t-butyl ether and the mixture was heated under reflux for 0.5 hours. The solution was cooled to 30° C. and a solution of 2.8 kg of 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran in 5 L of methyl t-butyl ether was added dropwise; thereafter, the mixture was stirred for 4.5 hours at 50° C. in an argon atmosphere. The solution was cooled to 10° C. and 1.4 L of a saturated aqueous solution of ammonium chloride was slowly added dropwise. Subsequently, 14 L of 10% aqueous hydrochloric acid was added and the mixture was extracted with 14 L of hexane. The aqueous layer was discarded and the organic layer was washed with 14 L of a saturated aqueous solution of sodium chloride; thereafter, the organic layer was concentrated under reduced pressure and the residue was dissolved in 12.5 L of hexane; 2.5 kg of silica gel was added to the solution which was then stirred for 1 hour. After filtering off the silica gel, the filtrate was concentrated under reduced pressure to give 1.9 kg (99.4% in purity) of 4,6-di-tert-butyl-5-hydroxy-2,2-dipentyl-2,3-dihydrobenzofuran.

reactant | lithium aluminum hydride | 0.27 kg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran | 2.8 kg | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CCCCC)CCCCC)C1C(C)(C)C)C(C)(C)C | C28H46O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 14 L | Cl | ClH
solvent | methyl t-butyl ether | 5 L | C(C)(C)(C)OC | C5H12O
solvent | methyl t-butyl ether | 18 L | C(C)(C)(C)OC | C5H12O
product | 4,6-di-tert-butyl-5-hydroxy-2,2-dipentyl-2,3-dihydrobenzofuran | 1.9 kg, 99.4% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(CCCCC)CCCCC)C(C)(C)C)O | C26H44O2
